### PR TITLE
Rework of PR #281: Archimedean structures on top of num/real domain/field/closedField

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR renames the `archiFieldType` structure to `archiRealFieldType` and introduces 5 new Archimedean ring/field structures. These structures are currently defined in `ssrnum.v`, but will be relocated to a new file `archimedean.v` in a future release. We also generalize truncation (`truncC`), floor (`floorC`), the subset of natural integers (`Cnat`, `Qnat`, and `Znat`), and the subset of integers (`Cint` and `Qint`) to Archimedean rings, which are now `Num.trunc`, `Num.floor`, `Num.nat`, and `Num.int` respectively.

Closes #281

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers
- [x] merge dependency: #686

##### CI overlays

- math-comp/fourcolor#27
- math-comp/odd-order#28

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by pi8027** [comment]
> Currently, `classfun.v` is broken since it uses `Cint`, but importing `ssrint` adds the infix `^` notation which collides with that of `group_scope`.

It seems that group notations and ring notations are mixed almost everywhere in `classfun.v`. So there is no other solution than adding `%g` whenever required. If a scope declaration for arguments of coercion to `Funclass` works, this situation probably becomes better. But this does not work in the current implementation of Coq (see https://github.com/coq/coq/issues/5527#issuecomment-568242128):
```coq
Arguments fun_of_cfun [gT] [B] _ _%g.
```

**Comment by pi8027** [comment]
I guess `Qint` and `Qnat` should be deprecated and superseded by `Cint` and `Cnat` respectively. Right? @CohenCyril

**Comment by CohenCyril** [comment]
> I guess `Qint` and `Qnat` should be deprecated and superseded by `Cint` and `Cnat` respectively. Right? @CohenCyril

Yes! And `Cint` and `Cnat` should both be renamed `Num.int` and `Num.nat`.

**Comment by CohenCyril** [comment]
> > I guess `Qint` and `Qnat` should be deprecated and superseded by `Cint` and `Cnat` respectively. Right? @CohenCyril
> 
> Yes! And `Cint` and `Cnat` should both be renamed `Num.int` and `Num.nat`.

And they should be in the mixin, so as to make the computations for `ssrint` and `rat` faster!

**Comment by pi8027** [comment]
> > Yes! And `Cint` and `Cnat` should both be renamed `Num.int` and `Num.nat`.
> 
> And they should be in the mixin, so as to make the computations for `ssrint` and `rat` faster!

Make sense. Allowing the use of `Cint` without importing `ssrint` would also be nice to get a better fix for `classfun` and `inertia`. But reimplementing `Cint` theory in the absence of `ssrint` would require some more work.

**Comment by pi8027** [comment]
@CohenCyril Could you confirm this is what you mean?
```coq
Record mixin_of (R : numDomainType) := Mixin {
  trunc : R -> nat;
  is_nat : pred R;
  is_int : pred R;
  _ : forall x, 0 <= x -> (trunc x)%:R <= x < (trunc x).+1%:R;
  _ : forall x, is_nat x = ((trunc x)%:R == x);
  _ : forall x, is_int x = is_nat x || is_nat (- x);
}.
```

**Comment by pi8027** [comment]
> Yes roughly, except the truncation has no reason to be only for non negative numbers, I would prefer the function in the mixin to be more general, knowing that there could be a factory providing opaque `trunc`, `is_nat`, and `is_int` from a `nat` upper bound.

The problem is that we have to relocate the basic part of `ssrint` (`int` and `intmul` at least?) to `ssrnum` in order to generalize the truncation to the negative case.

> I had planned to wait for HB to make this kind of changes... I am a bit surprised you are willing to go through so much work while we intend to trivialize all of this...

Reworking an existing branch is easier to do now rather than later. Also, IMO actual difficulties appear in places other than the definitions of structures, as in the breakage of `classfun.v`.

**Comment by pi8027** [comment]
`Cnat`, `Cint`, `truncC`, and `floorC` have been renamed to `Num.nat`, `Num.int`, `Num.trunc`, and `floorR` respectively. I guess we have to relocate `ssrint.int` (or make the dependency from `ssrint` to `ssrnum` opposite) to rename `floorR` to `Num.floor` anyway.

**Comment by pi8027** [comment]
Almost done except that `floorR` is still not a part of the Archimedean mixin and defined in `ssrint`. I'm not sure what to do about this point.

**Comment by pi8027** [comment]
Here is a summary of possible solutions:
1. Keeping the dependency relation of libraries as is, placing `truncR`, `Rnat`, and `Rint` in `ssrnum`, and placing `floorR` in `ssrint` (the current situation):
   - Pros: This solution works.
   - Cons: `floorR` cannot be located in `ssrnum.Num` (we can declare another `Num` module in `ssrint` to work around this, but it seems troublesome). The `floorR` functions of `int` and `rat` cannot be as straightforward/efficient as we expect. The `archiNumDomainType` theory has to be separated into two parts (one in `ssrnum` and another in `ssrint`).
2. Keeping the dependency relation of libraries as is, but relocating `int` and `intmul` from `ssrint` to `ssrnum` or before to include `floorR` and related lemmas in `ssrnum`:
   I think this solution does not work, because statements and proofs of some lemmas about `floorR` require, e.g., canonical `ringType` and `orderType` instances of `int`. So we have to relocate a significant part of `ssrint` anyway.
3. Changing the dependency relation of libraries to make `ssrnum` requiring `ssrint`:
   This solution may work. But the canonical `numDomainType` of `int` has to be defined in `ssrnum` or later, and then some lemmas about `int` cannot be stated in `ssrint`, e.g., `abszE` which requires the norm function.
4. Adding another library that requires both `ssrnum` and `ssrint`, and relocating the Archimedean structures and related lemmas to it:
   I think this is the best solution among these, but requires at least two steps of transition.

**Comment by CohenCyril** [comment]
Yet another solution: dispatching the contents of ssrint between ssralg and ssrnum.

**Comment by pi8027** [comment]
@CohenCyril That is what I meant in solution 3 IIUC.

**Comment by CohenCyril** [comment]
> @CohenCyril That is what I meant in solution 3 IIUC.

Indeed. It was not clear to me whether you were suggesting to remove the file ssrint, which is what I suggest here.

**Comment by CohenCyril** [comment]
Anyway, I like solution 4... it makes a lot of sense to me. How would you envision the transitiom though? Having files with new names required by files with old names?

**Comment by pi8027** [comment]
> Indeed. It was not clear to me whether you were suggesting to remove the file ssrint, which is what I suggest here.

I did not suggest removing `ssrint.v`. So they are actually different. But, anyway...

> Anyway, I like solution 4... it makes a lot of sense to me. How would you envision the transitiom though? Having files with new names required by files with old names?

In the first step, we try to relocate definitions and lemmas about the Archimedean structures as much as possible, to a new file, say `archimedean.v`. Since we have to deprecate `Znat` and related lemmas in `ssrint`, we cannot relocate some of them. So we declare them as `Local` ones in `ssrnum` or `ssrint`, provide deprecation aliases if needed, and also provide non-deprecated aliases in `archimedean.v`. I think this trick is also applicable to definitions of structures. In the second step, we remove deprecation aliases and relocate everything that depends on `archiNumDomainType` to `archimedean.v`.

**Comment by CohenCyril** [comment]
The way I saw it was that `ssrnum.v` would be "fake file" `Require Export`ing `ssrnum_without_archimedean` (find a proper name e.g. just `num.v`) as well as `archimedean` so that there is no overlay to make for developments that used to depend in `ssrnum` but use archimedean structures.

**Comment by pi8027** [comment]
Currently, ssrnum.v defines both numeric and Archimedean structures, but some notations (e.g., archiNumDomainType) are deprecated there and re-exported from archimedean.v without deprecation. I also had to re-export the canonical declarations of closure properties of Num.nat and Num.int from rat.v and algC.v to fix the breakage (Cf the last commit).
Overlays are required to make hints working and they just insert a few simplifications. I will try to get rid of them if needed.

File: mathcomp/ssreflect/ssreflect.v [hunk 1]
```diff
@@ -95,6 +79,8 @@ Ltac flag old_id new_id :=
 Module Exports.
 Arguments hide {T} u v /.
 Coercion hide : exposed >-> hidden.
+#[deprecated(since="mathcomp 1.13.0",
+             note="Use the deprecated attribute instead.")]
```
Comment (gares) [inline mathcomp/ssreflect/ssreflect.v:83]: yes!

**Comment by CohenCyril** [comment]
I have opened #692 to control the impact of this PR.

**Comment by proux01** [comment]
@pi8027 the doc of floor reads

> Num.floor x == for x \in Num.real [...] else 0%Z

is there a lemma stating the else part?

**Comment by pi8027** [comment]
@proux01 That is missing and the `floor` function has to be redefined to prove it. I will do it before the next MathComp call. Thanks!

File: mathcomp/algebra/archimedean.v [hunk 2]
```diff
@@ -0,0 +1,557 @@
...
+have [Rx | _] := boolP (x \is Num.real); last by exists 0.
+without loss x_ge0: x Rx / x >= 0.
+  have [x_ge0 | /ltW x_le0] := real_ge0P Rx; first exact.
+  case/(_ (- x)) => [||m /(_ isT)]; rewrite ?rpredN ?oppr_ge0 //.
+  rewrite ler_oppr ltr_oppl -!rmorphN opprD /= le_eqVlt.
+  case: eqP => [-> _ | _ /andP[lt_x_m lt_m_x]].
+    by exists (- m); rewrite lexx rmorphD ltr_addl ltr01.
+  by exists (- m - 1); rewrite (ltW lt_m_x) subrK.
+by exists (Posz (trunc x)) => _; rewrite addrC -intS -!pmulrn truncR_itv.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/archimedean.v:140]: You could provide a non opaque function instead e.g.
```coq
Definition floorR x :=
   if x >= 0 then trunc x else let n := trunc (- x) in if x == n%:R then - n%:Z else - n.-1%N.
```
That way we can still compute (e.g. in Q) without having all the functions in the interface...

Comment (pi8027) [reply mathcomp/algebra/archimedean.v:140]: @CohenCyril My plan is to extend the Archimedean mixin with the floor function in the next step (hopefully MathComp 1.14.0). So I would rather like to keep it opaque for now to prevent future breakages. For example, the floor function of `int` can simply be the identity function `fun n : int -> n` which is inconvertible with your general floor function.

**Comment by pi8027** [comment]
MathComp Analysis does not compile anymore:
```coq
- File "./theories/reals.v", line 486, characters 8-39:
- Error:
- In environment
- R : realType
- x : R
- The term "- x" has type "GRing.Zmodule.sort R"
- while it is expected to have type "Num.ArchiNumDomain.sort ?R".
```

It seems that there is no fix without adding an inheritance from `archiNumDomainType` to `realType`.

**Comment by pi8027** [comment]
@CohenCyril I think trying to be backward compatible is a bit painful in this case. Anyway, I agree that we should discuss this in a meeting. Meanwhile, I would like to revise the theory part of archimedean.v. (I have some questions and comments since I did not write everything by myself.)

File: mathcomp/algebra/archimedean.v [hunk 3]
```diff
@@ -0,0 +1,649 @@
...
+  by rewrite floor_ceil_eq // cxfy addrC -subr_eq subrr eq_sym oner_neq0.
+apply/ceilR_def; rewrite addrK; move: (floorR_itv Rx).
+by rewrite !le_eqVlt -Rint_def (negPf Ix) /= => /andP [-> ->]; rewrite orbT.
+Qed.
+
+Lemma intRK' : cancel intr ceil.
+Proof. by move=> m; apply/eqP; rewrite eqr_oppLR -mulrNz intRK. Qed.
+
+Lemma Rint_def' x : x \is a Rint = ((ceil x)%:~R == x).
+Proof. by rewrite mulrNz eqr_oppLR -Rint_def !RintE opprK orbC. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/archimedean.v:428]: We should rename these lemmas.

File: mathcomp/algebra/archimedean.v [hunk 4]
```diff
@@ -0,0 +1,649 @@
...
+by case: ifP => [/Zp/floorRK // | _]; rewrite floorR0.
+Qed.
+
+Lemma floorRpP (p : {poly R}) :
+  p \is a polyOver Rint -> {q | p = map_poly intr q}.
+Proof. by exists (map_poly floor p); rewrite floorRpK. Qed.
+
+(* Relating Cnat and oldCnat. *)
+
+Lemma truncR_old x : trunc x = if 0 <= x then `|floor x|%N else 0%N.
```
Comment (pi8027) [inline mathcomp/algebra/archimedean.v:532]: This should be renamed.

**Comment by pi8027** [comment]
BTW, why CI disappeared from the checklist here?

**Comment by CohenCyril** [comment]
> BTW, why CI disappeared from the checklist here?

no idea, that's very strange

File: mathcomp/algebra/archimedean.v [hunk 5]
```diff
@@ -0,0 +1,649 @@
...
+
+Lemma floor_ceil_eq x : x \is Rreal -> x \is a Rint = (floor x == ceil x).
+Proof.
+move=> Rx; apply/idP/idP => [Ix|/eqP fxcy].
+  by rewrite -eqr_oppLR floorRN.
+by rewrite Rint_def; apply/eqP/le_anti; rewrite ge_floorR //= fxcy le_ceilR.
+Qed.
+
+Lemma floor_ceil_neq x :
+  x \is Rreal -> ~~ (x \is a Rint) = (ceil x == floor x + 1).
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/algebra/archimedean.v:416]: Indeed, here it is: https://github.com/proux01/math-comp/commit/881e7bb8b30d7d3baedb9bf2116bbc772be3a9b5

File: mathcomp/algebra/archimedean.v [hunk 6]
```diff
@@ -0,0 +1,649 @@
...
+move: prodF1; elim/(big_load (fun x => x \is a Rnat)): _.
+elim/big_rec2: _ => // i all1x x /natF N_Fi [Nx x1all1].
+by split=> [|/eqP]; rewrite ?rpredM ?Rnat_mul_eq1 // => /andP[-> /eqP].
+Qed.
+
+(* floor and Rint *)
+
+Local Lemma floorRP x :
+  if x \is Rreal then
+    (floor x)%:~R <= x < (floor x + 1)%:~R else floor x == 0%N.
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/algebra/archimedean.v:303]: Thanks (although I don't see anything to add)

File: mathcomp/algebra/archimedean.v [hunk 7]
```diff
@@ -0,0 +1,649 @@
...
+
+Lemma RintP x : reflect (exists m, x = m%:~R) (x \is a Rint).
+Proof.
+apply: (iffP idP) => [x_int | [m ->]]; last exact: Rint_int.
+rewrite -[x]opprK; move: x_int; rewrite RintE.
+move=> /orP[] /RnatP[n ->]; first by exists n; rewrite opprK.
+by exists (- n%:R); rewrite mulrNz mulrz_nat.
+Qed.
+
+Lemma Rint_def x : x \is a Rint = ((floor x)%:~R == x).
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/algebra/archimedean.v:353]: Maybe Rint_floor?

**Comment by CohenCyril** [comment]
@pi8027 
> BTW, why CI disappeared from the checklist here?

This is now fixed (cf https://github.com/math-comp/math-comp/pull/706#issuecomment-792347741). In principle, if you rebased this PR for example, github would show the status of the CI. Although I believe with the ongoing stuff on HB it would not make sense to rebase it. Just so you know

**Comment by proux01** [comment]
@pi8027 @CohenCyril  now that 2.0 is out, I rebased this and CI is green. I'd like to merge by the end of the week if there is no more comments (I'll open an issue to remember the above points about `Rnat_sum_eq1` and `Rnat_prod_eq1`).

**Comment by proux01** [comment]
The remaining comments will be addressed in https://github.com/math-comp/math-comp/pull/1030 depending on this.

**Comment by proux01** [comment]
No more comments apparently so I'll merge on Friday.

File: mathcomp/algebra/ssrnum.v [hunk 8]
```diff
@@ -162,6 +158,28 @@ Notation "[ 'numDomainType' 'of' T ]" := (NumDomain.clone T%type _)
 End NumDomainExports.
 HB.export NumDomainExports.
 
+HB.mixin Record NumDomain_isArchimedean R of NumDomain R := {
+  trunc_subdef : R -> nat;
+  is_nat : pred R;
+  is_int : pred R;
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:164]: I advocate turning these into `_subdef`

File: mathcomp/algebra/ssrnum.v [hunk 9]
```diff
@@ -208,13 +225,28 @@ Definition Rnneg : qualifier 0 R := [qualify x : R | Rnneg_pred x].
...
 
-End Def. End Def.
+End NumDomainDef.
+
+Section ArchiNumDomainDef.
+Context {R : ArchiNumDomain.type}.
+
+Definition trunc : R -> nat := @trunc_subdef R.
+Definition Rnat : qualifier 1 R := [qualify a x : R | is_nat x].
+Definition Rint : qualifier 1 R := [qualify a x : R | is_int x].
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:235]: The `R` in `Rnat` and `Rint` does not respect any existing convention. It  should either be documented or renamed.
I am in favor of naming them `nat_num` and `int_num` inside this file, and then `nat` and `int` directly so that they can be used through `Num.nat` and  `Num.int` later on.

File: mathcomp/algebra/ssrnum.v [hunk 10]
```diff
@@ -411,6 +425,84 @@ Notation "[ 'rcfType' 'of' T ]" :=  (RealClosedField.clone T%type _)
...
+Module ArchiRealDomainExports.
+Bind Scope ring_scope with ArchiRealDomain.sort.
+#[deprecated(since="mathcomp 2.1.0", note="Require archimedean.v.")]
+Notation archiRealDomainType := archiRealDomainType (only parsing).
+End ArchiRealDomainExports.
+HB.export ArchiRealDomainExports.
+
+#[short(type="archiRealFieldType")]
+HB.structure Definition ArchiRealField :=
+  { R of NumDomain_isArchimedean R & RealField R }.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:463]: Maybe we can keep `archiFieldType` (at least as a notation) for this one, to maximize backward compat?

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Just a few remarks befor we merge.

File: mathcomp/algebra/ssrnum.v (hunk 9 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: Done, I thus renamed "Rnat" in lemma names to "nat" or "natr". This yields a few conflicts with "natr" already used for `%:R` which I solved using a few "nat_num". This is not perfect but I think it's acceptable.

Also note that we already had `Rpos`, `Rneg` and `Rreal` which should probably be deprecated/renamed `pos_num`, `neg_num` and `real_num` in a separate PR.

File: mathcomp/algebra/ssrnum.v (hunk 10 above)
Comment (proux01) [reply mathcomp/algebra/ssrnum.v]: Ok, also changed `archiRealDomainType` to `archiDomainType` for the sake of uniformity.

File: mathcomp/algebra/ssrnum.v (hunk 9 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssrnum.v]: > Done, I thus renamed "Rnat" in lemma names to "nat" or "natr". This yields a few conflicts with "natr" already used for `%:R` which I solved using a few "nat_num". This is not perfect but I think it's acceptable.

I'm not sure having `natr` for lemmas about `nat_num` is desirable...


> Also note that we already had `Rpos`, `Rneg` and `Rreal` which should probably be deprecated/renamed `pos_num`, `neg_num` and `real_num` in a separate PR.

Sure we should also deal with `Rpos`, `Rneg` and `Rreal`

Comment (pi8027) [reply mathcomp/algebra/ssrnum.v]: I opened an issue for this: #1330
